US06362208B1
Production of 6-(5-hydroxybenzoxazol-2-ylthio)-N-(2,6-diisopropylphenyl)hexanamide
Under cooling in ice bath, 6-(5-benzyloxybenzoxazol-2-ylthio)-N-(2,6-diisopropylphenyl)hexanamide (514 mg, 2.0 mmol) was dissolved in trifluoroacetic acid (20 ml), followed by addition of thioanisole (1.24 g, 10 mmol), with stirring at ambient temperature for 12 hours. The solvent was distilled off from the reaction solution; the resulting residue was diluted with water, and extracted with ethyl acetate. The organic layer was washed sequentially with a saturated sodium hydrogen carbonate solution and saturated sodium chloride solution, and was dried over anhydrous magnesium sulfate, from which the solvents were distilled off. The residue was purified by silica gel column chromatography (30 g of silica gel; elution solvents: hexane:acetone=5:1 to 5:2), to recover the objective compound (459 mg at a yield of 97%) as a pale red amorphous. IR (KBr) cm−1: 3247, 2963, 1649, 1445, 1153. 1H-NMR (d6-DMSO) δ: 1.12 (12H, d, J=6.8 Hz), 1.48-1.91 (6H, m), 2.35 (2H, m), 3.08 (2H, sept, J=6.8 Hz), 3.31 (2H, t, J=7.1 Hz), 6.70 (1H, dd, J=8.8, 2.4 Hz), 6.92 (1H, d, J=2.4 Hz), 7.09 (1H, d, J=8.3 Hz), 7.10 (1H, d, J=7.1 Hz), 7.19 (1H, dd, J=8.3, 7.1 Hz), 7.31 (1H, d, J=8.8 Hz), 8.68 (1H, br s), 8.92 (1H, s). EIMS m/z (relative intensity): 440 (M+, 100). Elementary Analysis: C25H32N2O3S Required: C, 68.15; H, 7.32; N, 6.36; S, 7.28. Found: C, 68.16; H, 7.45; N, 6.26; S, 6.86.

reactant | 6-(5-benzyloxybenzoxazol-2-ylthio)-N-(2,6-diisopropylphenyl)hexanamide | 2.0 mmol, 514 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(N=C(O2)SCCCCCC(=O)NC2=C(C=CC=C2C(C)C)C(C)C)C1 | C32H38N2O3S
reactant | thioanisole | 10 mmol, 1.24 g | C1(=CC=CC=C1)SC | C7H8S
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-(5-hydroxybenzoxazol-2-ylthio)-N-(2,6-diisopropylphenyl)hexanamide | yield of 97% | OC=1C=CC2=C(N=C(O2)SCCCCCC(=O)NC2=C(C=CC=C2C(C)C)C(C)C)C1 | C25H32N2O3S
